US06599925B2
5-[6-(3-Pentyl-benzofuran-2-yl)-naphthalen-2-yloxymethyl]-1H-tetrazole
Following the procedure described in Step 6, of Example 1, the title compound was prepared from [6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetonitrile (0.2 g, 0.54 mmol), sodium azide (0.35 g, 5.4 mmol) and ammonium chloride (0.29 g, 5.4 mmol) in DMF (12 mL). The title compound was obtained as a white solid (0.085 g), mp 178-180° C. Mass spectrum (+APCl, [M+H]+) m/z 413. 1HNMR (400 MHz, DMSO-d6): δ8.27 (s, 1H), 8.03 (d, 1H, J=9.1 Hz), 7.97-7.87 (m, 2H), 7.68 (d, 1H, J=7.0 Hz), 7.61-7.56 (m, 2H), 7.36-7.25 (m, 3H), 5.63 (s, 2H), 2.96 (t, 2H, J=7.9 Hz), 1.72 (p, 2H, J=7.0 Hz), 1.41-1.29 (m, 4H), and 0.83 ppm (t, 3H, J=7.1 Hz). Elemental Analysis for C25H24N4O2.0.75H2O: Calculated: C, 70.49; H, 6.03; N, 13.15. Found: C, 70.18; H, 5.68; N, 13.3.

reactant | [6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetonitrile | 0.54 mmol, 0.2 g | C(CCCC)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)OCC#N | C25H23NO2
reactant | sodium azide | 5.4 mmol, 0.35 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 5.4 mmol, 0.29 g | [Cl-].[NH4+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 5-[6-(3-Pentyl-benzofuran-2-yl)-naphthalen-2-yloxymethyl]-1H-tetrazole | C(CCCC)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)OCC2=NN=NN2 | C25H24N4O2
